US06727264B1
2-METHYL-N-(3-{1-[3-(1H-PYRROL-3-YL)PROPYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE:
Prepared by Procedure K (KI) and Scheme E (K2CO3) using 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide and 3-(3-bromopropyl)-1H-pyrrole: ESMS m/e: 354.2 (M+H)+.

reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
reactant | 3-(3-bromopropyl)-1H-pyrrole | BrCCCC1=CNC=C1 | C7H10BrN
product | 2-METHYL-N-(3-{1-[3-(1H-PYRROL-3-YL)PROPYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCCC1=CNC=C1)C | C22H31N3O
